US05955627
To a solution of monomethyl malonate (14.16 g, 1.2 eq based on the cyclopropanecarboxaldehyde) and ammonium acetate (0.3 g) in benzene (20 ml) was added dropwise a solution of cyclopropanecarboxaldehyde (7.1 g, 101.3 mmol) in pyridine (11 ml) at 0±5° C. After addition, the solution was refluxed to remove water outside. To the reaction mixture was added 1N hydrochloric acid to acidify. After separation, the aqueous layer was extracted with diisopropyl ether (70 ml) twice. The combined organic layer was concentrated under reduced pressure to give methyl cyclopropylacrylate (11.1 g, yield 88%).

reactant | monomethyl malonate | C(CC(=O)[O-])(=O)OC
reactant | cyclopropanecarboxaldehyde | C1(CC1)C=O | C4H6O
reactant | ammonium acetate | 0.3 g | C(C)(=O)[O-].[NH4+]
reactant | cyclopropanecarboxaldehyde | 101.3 mmol, 7.1 g | C1(CC1)C=O | C4H6O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | pyridine | 11 ml | N1=CC=CC=C1 | C5H5N
product | methyl cyclopropylacrylate | 11.1 g, yield 88% | C1(CC1)C(C(=O)OC)=C | C7H10O2
